US07994185B2
Step A: Methyl 2-hydroxy-3-nitrobenzoate
To a solution of 2-hydroxy-3-nitrobenzoic acid (25 g, 136 mmol) in DMF (125 mL) was added K2CO3 (37.8 g, 273 mmol). Then dimethyl sulfate (48.2 g, 382 mmol) was added dropwise to the mixture at rt. The mixture was stirred at rt overnight. Then the reaction was quenched by the addition of the saturated aqueous NH4Cl (800 mL) at 0° C. The reaction mixture was extracted with EtOAc (500 mL×2). The combined organic layers were washed with water successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound of Step A (26.8 g, 99.6% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.10-8.18 (m, 2H), 7.97-8.03 (br, 1H), 6.95-7.03 (m, 1H), 4.00 (s, 3H).

reactant | 2-hydroxy-3-nitrobenzoic acid | 136 mmol, 25 g | OC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H5NO5
reactant | K2CO3 | 273 mmol, 37.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 382 mmol, 48.2 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | Methyl 2-hydroxy-3-nitrobenzoate | 26.8 g, 99.6% yield | OC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H7NO5
